US07713993B2
Synthesis of 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-(1H-imidazol-4-yl)methanol
LAH (18 mg) was added to a solution of methyl 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole-4-carboxylate (50 mg) in THF (5 mL), and the reaction solution was stirred at room temperature for 1.5 hours. Ethyl acetate and brine were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate->ethyl acetate:methanol=5:1). The resulting solid was suspended in diethyl ether and collected by filtration to obtain 36 mg of the title compound. The property values of the compound are as follows.

reactant | LAH | 18 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole-4-carboxylate | 50 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)C(=O)OC | C24H21FN4O3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-(1H-imidazol-4-yl)methanol | 36 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)CO | C23H21FN4O2
